US07741479B2
4-(2-Hydroxyacetyl)-3,3-dimethylpiperazin-2-one (0.090 g, 0.48 mmol) and sodium hydride (60%, 0.040 g, 0.97 mmol) were dissolved in 3 mL DMF and stirred at 25° C. for 30 min. To the resulting, cooled (0° C.) mixture was added drop-wise 3-cyano-1,1,1-trifluoroprop-2-en-2-yl 4-methylbenzenesulfonate (0.16 g, 0.56 mmol). The reaction was gradually warmed up to 25° C., stirred for an additional 2 hours, 2 additional equivalents of sodium hydride were added and the mixture stirred for another additional 4 hours. The reaction mixture was quenched with water, extracted with ethyl acetate, the combined organic layers dried, the solvent eliminated under vacuum and the crude product purified by preparative thin layer chromatography. (silicagel, dichloromethane:methanol 95:5) to afford 0.010 g of 4-(4-amino-2-(trifluoromethyl)furan-5-carbonyl)-3,3-dimethylpiperazin-2-one.

reactant | 4-(2-Hydroxyacetyl)-3,3-dimethylpiperazin-2-one | 0.48 mmol, 0.090 g | OCC(=O)N1C(C(NCC1)=O)(C)C | C8H14N2O3
reactant | sodium hydride | 0.97 mmol, 0.040 g | [H-].[Na+]
reactant | 3-cyano-1,1,1-trifluoroprop-2-en-2-yl 4-methylbenzenesulfonate | 0.56 mmol, 0.16 g | CC1=CC=C(C=C1)S(=O)(=O)OC(C(F)(F)F)=CC#N | C11H8F3NO3S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(4-amino-2-(trifluoromethyl)furan-5-carbonyl)-3,3-dimethylpiperazin-2-one | 0.010 g | NC=1C=C(OC1C(=O)N1C(C(NCC1)=O)(C)C)C(F)(F)F | C12H14F3N3O3
